US03988338
2-methylthio-4-(n-pentylamino)pyrrolo[2,3-d]pyrimidine:
To 200 mg of 4-chloro-2-methylthiopyrrolo[2,3-d]-pyrimidine was added 2 ml of n-pentylamine. The solution was heated at reflux under nitrogen for 2 hours. The resulting dark oil was purified by chromatography on 30 g of Sephadex LH-20, elution with H2O and then with increasing concentrations of EtOH up to 40% EtOH. The appropriate fractions were combined and evaporated to dryness and the solid residue was crystallized from EtOH/H2O to afford white crystals of product, yield 71 mg (57%), m.p. 134°-137°.

reactant | 4-chloro-2-methylthiopyrrolo[2,3-d]-pyrimidine | 200 mg | ClC1=C2C(NC(=N1)SC)=NC=C2 | C7H6ClN3S
reactant | n-pentylamine | 2 ml | C(CCCC)N | C5H13N
product | 2-methylthio-4-(n-pentylamino)pyrrolo[2,3-d]pyrimidine | CSC1=NC(=C2C(N1)=NC=C2)NCCCCC | C12H18N4S
